US06369249B1
Preparation of N-cetylacrylamide
In a 250 ml capacity conical flask 13 g cetyl chloride (0.05 M), 3.5 g acrylamide (0.05 M) and 50 ml acetone were placed to obtain a clear solution. The solution was stirred with a magnetic needle at room temperature. 6.5 g anhydrous aluminium chloride (0.05 M) was added and the reaction mixture was stirred at room temperature. After 5 to 10 minutes of stirring, vigorous evolution of hydrogen chloride took place which ceased after about 5 minutes. Temperature of the reaction mixture was raised to 40 to 50° C. It was then cooled to room temperature and poured into 500 ml cold water. White product was precipitated. The product was isolated and purified by reprecipitation from acetone into cold water.

reactant | cetyl chloride | 0.05 M, 13 g | C(CCCCCCCCCCCCCCC)Cl | C16H33Cl
reactant | acrylamide | 0.05 M, 3.5 g | C(C=C)(=O)N | C3H5NO
reactant | aluminium chloride | 0.05 M, 6.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | Cl | ClH
solvent | water | 500 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-cetylacrylamide | C(CCCCCCCCCCCCCCC)NC(C=C)=O | C19H37NO
